US20010049385A1
1-Methoxy-3-(trimethylsilyloxy)-1,3-butadiene (4.95 ml; 26 mmol) was added to a solution of phenoxyacetaldehyde (3.56 g, 26 mmol) in DCM (40 ml). The solution was cooled to −5° C. A 2.3 M solution of zinc chloride in DCM (5.6 ml, 13 mmol) was added. The reaction mixture was stirred for 16 hours, while it was warming up to room temperature. It was diluted with ethyl acetate (150 ml) and washed with a 10% aqueous solution of sodium hydrogensulphate (100 ml). The aqueous phase was extracted with ethyl acetate (100 ml). The combined organic layers were washed with a saturated aqueous solution of sodium hydrogencarbonate (100 ml) and dried over magnesium sulphate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (200 g), using ethyl acetate/heptane (1:1) as eluent, to give 2.36 g of 2-phenoxymethyl-2,3-dihydropyran-4-one.

reactant | 1-Methoxy-3-(trimethylsilyloxy)-1,3-butadiene | 26 mmol, 4.95 ml | COC=CC(=C)O[Si](C)(C)C | C8H16O2Si
reactant | phenoxyacetaldehyde | 26 mmol, 3.56 g | O(C1=CC=CC=C1)CC=O | C8H8O2
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
solvent | DCM | 13 mmol, 5.6 ml | C(Cl)Cl | CH2Cl2
product | 2-phenoxymethyl-2,3-dihydropyran-4-one | 2.36 g | O(C1=CC=CC=C1)CC1OC=CC(C1)=O | C12H12O3
